US04912135
Preparation of 3,5-bis(methoxyacetylamino)benzoic acid:
To a solution of 3,5-diaminobenzoic acid (6.1 g) in pyridine (80 ml) is added dropwise methoxyacetyl chloride (8.0 ml) at room temperature, and the mixture is stirred for 2 hours as it stands. From the reaction mixture, pyridine is distilled off under reduced pressure. To the residue is added 1N hydrochloric acid, and the resulting solid substance is separated by filtration and washed with water. The resulting crude crystals are recrystallized from ethanol to give the title compound (8.0 g) having the following physical properties.

reactant | 3,5-diaminobenzoic acid | 6.1 g | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | methoxyacetyl chloride | 8.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(methoxyacetylamino)benzoic acid | 8.0 g | COCC(=O)NC=1C=C(C(=O)O)C=C(C1)NC(COC)=O | C13H16N2O6
